US08703941B2
Synthesis of 5,5-dimethyl-6,7-dihydro-3H-cyclopenta[4,5]thieno[2,3-d]pyrimidin-4(5H)-one.
Ethyl 2-amino-4,4-dimethyl-5,6-dihydro-4H-cyclopenta[b]thiophene-3-carboxylate (2.3 g, 9.9 mmol, 1 equiv.) was dissolved in formamide (12 mL). The mixture was stirred for 1 hour at 180° C. Then water (50 mL) was added and the product extracted with ethyl acetate (50 mL*3). The organic layer was washed with water (100 mL*2) and brine (100 mL), dried by sodium sulfate and filtered. The organic layer was concentrated and the residue purified by column chromatography (hexane:ethyl acetate=6:5) to give the desired product (1.57 g, 75%) as a yellow solid. MS: m/z 221 (M+H)+.

reactant | Ethyl 2-amino-4,4-dimethyl-5,6-dihydro-4H-cyclopenta[b]thiophene-3-carboxylate | 9.9 mmol, 2.3 g, 1 equiv. | NC1=C(C2=C(S1)CCC2(C)C)C(=O)OCC | C12H17NO2S
reactant | water | 50 mL | O | H2O
reactant | formamide | 12 mL | C(=O)N | CH3NO
product | 5,5-dimethyl-6,7-dihydro-3H-cyclopenta[4,5]thieno[2,3-d]pyrimidin-4(5H)-one | 1.57 g, 75% | CC1(CCC2=C1C1=C(N=CNC1=O)S2)C | C11H12N2OS
